US08791147B2
To a solution of (5-chloro-4-(3-fluorophenyl)pyridin-2-yl)methanol (0.138 g, 0.58 mmol) in dichloromethane (5 mL) at room temperature was added manganese dioxide (0.49 g, 5.6 mmol). The reaction mixture was stirred at room temperature for 3 d, filtered, and concentrated. Purification by flash column chromatography on silica gel (10% to 20% EtOAc in hexanes) gave 5-chloro-4-(3-fluorophenyl)picolinaldehyde.

reactant | (5-chloro-4-(3-fluorophenyl)pyridin-2-yl)methanol | 0.58 mmol, 0.138 g | ClC=1C(=CC(=NC1)CO)C1=CC(=CC=C1)F | C12H9ClFNO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 5.6 mmol, 0.49 g | [O-2].[O-2].[Mn+4]
product | 5-chloro-4-(3-fluorophenyl)picolinaldehyde | ClC=1C(=CC(=NC1)C=O)C1=CC(=CC=C1)F | C12H7ClFNO
